US07439260B2
4-(4-Fluorophenyl)-8-methyl-7-({5-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]-1,3-thiazol-2-yl}thio)-2H-chromen-2-one
Employing the procedure of Example 1, Step 3 using 1,1,1,3,3,3-hexafluoro-2-(2-mercapto-1,3-thiazol-5-yl)propan-2-ol, (0.332 g, 1.2 mmol), 7-bromo-4-(4-fluorophenyl)-8-methyl-2H-chromen-2-one (0.430 g, 1.3 mmol) and potassium carbonate (0.404 g, 2.9 mmol) in NMP, the title compound was obtained. 1H NMR (400 MHz, acetone-d6): δ 8.21 (s, 1H, OH), 7.97 (s, 1H), 7.36-7.72 (m, 6H), 6.50 (s, 1H), 2.67 (s, 3H).

reactant | 1,1,1,3,3,3-hexafluoro-2-(2-mercapto-1,3-thiazol-5-yl)propan-2-ol | 1.2 mmol, 0.332 g | FC(C(C(F)(F)F)(O)C1=CN=C(S1)S)(F)F | C6H3F6NOS2
reactant | 7-bromo-4-(4-fluorophenyl)-8-methyl-2H-chromen-2-one | 1.3 mmol, 0.430 g | BrC1=CC=C2C(=CC(OC2=C1C)=O)C1=CC=C(C=C1)F | C16H10BrFO2
reactant | potassium carbonate | 2.9 mmol, 0.404 g | C([O-])([O-])=O.[K+].[K+]
solvent | NMP | CN1CCCC1=O | C5H9NO
product | 4-(4-Fluorophenyl)-8-methyl-7-({5-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]-1,3-thiazol-2-yl}thio)-2H-chromen-2-one | FC1=CC=C(C=C1)C1=CC(OC2=C(C(=CC=C12)SC=1SC(=CN1)C(C(F)(F)F)(C(F)(F)F)O)C)=O | C22H12F7NO3S2
